US05596002
(RS)-(7-Chloro-quinolin-4-yl)-[2-(2-ethyl-piperidin-1-yl)-ethyl]amine
1.52 g from N-(2-chloroethyl)-7-chloro-4-quinolinamine hydrochloride; colourless crystals from acetonitrile, m.p.: 115°-117° C.

reactant | N-(2-chloroethyl)-7-chloro-4-quinolinamine hydrochloride | Cl.ClCCNC1=CC=NC2=CC(=CC=C12)Cl
solvent | acetonitrile | C(C)#N | C2H3N
product | (RS)-(7-Chloro-quinolin-4-yl)-[2-(2-ethyl-piperidin-1-yl)-ethyl]amine | ClC1=CC=C2C(=CC=NC2=C1)NCCN1C(CCCC1)CC | C18H24ClN3
